US07241810B2
Preparation 49: tert-Butyl (3-iodobenzyl)carbamate
A suspension of 3-iodobenzylamine hydrochloride (4.95 g, 18.4 mmol) in dichloromethane (100 mL) was treated with triethylamine (3.1 mL, 22 mmol) and di-tert-butyl dicarbonate (4.40 g, 20 mmol) and the resulting solution stirred at room temperature for 1.5 hours. The reaction mixture was then washed with 2M hydrochloric acid (30 mL), water (30 mL), dried over sodium sulfate and concentrated in vacuo to afford the title compound as a colourless solid in quantitative yield, 6.43 g. 1HNMR (400 MHz, CDCl3) δ: 1.46 (9H, s), 4.21–4.30 (2H, m), 4.79–4.89 (1H, bs), 7.06 (1H, dd), 7.25 (1H, d), 7.60 (1H, d), 7.63 (1 H, s); LRMS ESI m/z 332 [M−H]−

reactant | 3-iodobenzylamine hydrochloride | 18.4 mmol, 4.95 g | Cl.IC=1C=C(CN)C=CC1
reactant | triethylamine | 22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 20 mmol, 4.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-Butyl (3-iodobenzyl)carbamate | quantitative yield | IC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16INO2
